US09340549B2
(S)—N′-(6-Chloropyridazin-3-yl)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)benzohydrazide
(S)-4-(5,5-Dimethyl-2-oxo-4-phenyloxazolidin-3-yl)benzoic acid (400 mg, 1.285 mmol) was dissolved in DMF (2.57 mL) at room temperature. To the reaction mixture, was successively added N-ethyl-N-isopropylpropan-2-amine (670 μL, 3.85 mmol), 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (489 mg, 1.285 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) and 3-chloro-6-hydrazinylpyridazine (186 mg, 1.285 mmol). The vial was sealed and immersed in a 55° C. oil bath. After stirring overnight, LC-MS indicated complete conversion to the product. After cooling to room temperature, the reaction mixture was transferred to water in a flask in an ice/water bath. The solution was extracted w with DCM (3×50 mL). The combined organic layers were then washed with water (2×50 mL) and brine (50 mL). The organic layer was dried over Na2SO4. The solution was then filtered and concentrated under reduced pressure to give the product as a yellow solid. The product thus obtained was was used in the next step without further purification. m/z (ESI) 438.0 (M+H)+.

reactant | (S)-4-(5,5-Dimethyl-2-oxo-4-phenyloxazolidin-3-yl)benzoic acid | 1.285 mmol, 400 mg | CC1([C@@H](N(C(O1)=O)C1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1)C | C18H17NO4
reactant | N-ethyl-N-isopropylpropan-2-amine | 3.85 mmol, 670 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-chloro-6-hydrazinylpyridazine | 1.285 mmol, 186 mg | ClC=1N=NC(=CC1)NN | C4H5ClN4
solvent | DMF | 2.57 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)—N′-(6-Chloropyridazin-3-yl)-4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)benzohydrazide | ClC1=CC=C(N=N1)NNC(C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)=O | C22H20ClN5O3
